US05223518
Step a: 4-Dimethylamino-α-[(trimethylsilyl)ethynyl]-benzenemethanol
Place lithium hexamethyldisilazane (12 mL of a 1 M solution in tetrahydrofuran, 12 mmol) under an argon atmosphere and cool to 0° C. Add trimethylsilylacetylene (1.7 mL, 12 mmol) and stir for 1 hour at 0° C. Add 4-dimethylaminobenzaldehyde (1.49 g, 10 mmol) in tetrahydrofuran (25 mL). Allow to warm to room temperature and stir for 3 hours. Pour the mixture into ethyl ether and water, separate the organic phase and evaporate the solvent in vacuo. Filter the oil through silica gel (20% ethyl acetate/hexane) and evaporate the solvent in vacuo to yield 2.26 g of the title compound.

reactant | lithium hexamethyldisilazane | C[Si](N[Si](C)(C)C)(C)C.[Li]
reactant | trimethylsilylacetylene | 12 mmol, 1.7 mL | C[Si](C)(C)C#C | C5H10Si
reactant | 4-dimethylaminobenzaldehyde | 10 mmol, 1.49 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-Dimethylamino-α-[(trimethylsilyl)ethynyl]-benzenemethanol | 2.26 g | CN(C1=CC=C(C=C1)C(O)C#C[Si](C)(C)C)C | C14H21NOSi
